US08445497B2
4-Fluoro-2-(4-bromophenyl)-5-isopropoxy-N-methylbenzofuran-3-carboxamide.
To a mixture of 4-fluoro-2-(4-bromophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide (0.17 g, 0.467 mmol, 1 eq), 2-bromopropane (0.18 ml, 1.46 mmol, 3.1 eq), and cesium carbonate (0.46 g, 1.41 mmol, 3 eq) in N-methylpyrrolidinone in a sealed tube was heated at 50° C. for 16 h. The reaction mixture was cooled to r.t., and the inorganic was removed by filtration. The filtrate was diluted with water, and the product extracted into EtOAc. The organic was washed with saturated brine solution, filtered, dried over Na2SO4 and concentrated. The crude product was purified by silica gel (60-120) column chromatography using 0-20% EtOAc in petroleum ether as an eluent Yield: 0.15 g (79.4%). 1H NMR (400 MHz, DMSO-d6) δ 8.66 (d, J=4.4 Hz, 1H), 7.78-7.73 (m, 4H), 7.46 (d, J=9.2 Hz, 1H), 7.26 (t, J=8.4 Hz, 1H), 4.53 (m, 1H), 2.82 (d, J=4.4 Hz, 3H). 1.29 (d, J=6.0 Hz, 6H). Column: purospher@star RP-18 (4×55) mm, 3 μm; Mphase A: 20 mM NH4OAc in 90% H2O, 10% MeCN; Mphase B: 20 mM NH4OAc in 10% H2O, 90% MeCN; Flow: 2.5 ML/min; Time: 0; % A: 100; % B: 0; Time: 1.8; % A: 0; % B: 100; RT min: 2.117, wavelength: 220 nm.

reactant | 4-fluoro-2-(4-bromophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide | 0.467 mmol, 0.17 g, 1 eq | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)Br)C(=O)NC)O | C16H11BrFNO3
reactant | 2-bromopropane | 1.46 mmol, 0.18 ml, 3.1 eq | BrC(C)C | C3H7Br
reactant | cesium carbonate | 1.41 mmol, 0.46 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 4-Fluoro-2-(4-bromophenyl)-5-isopropoxy-N-methylbenzofuran-3-carboxamide | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)Br)C(=O)NC)OC(C)C | C19H17BrFNO3
